US05750471
Step A: 7-Chloro-1-ethyl-5-fluoro-1,3-dihydro-4-isothiocyanato-2,1-benzisothiazole 2,2-dioxide
To a solution of 7-chloro-1-ethyl-5-fluoro-1,3-dihydro-2,1-benzisothiazol4-amine 2,2-dioxide (0.5 g, 1.88 mmol) and triethylamine (0.6 mL) in anhydrous tetrahydrofuran (THF, 10 mL), thiophosgene (0.238 g, 1.1 eq) in THF (2 mL) was added dropwise at room temperature under a nitrogen atmosphere. The resulting reaction mixture was heated at reflux for 2 days. The solvents were removed in vacuo to give the title compound of Step A which was used in Step B.

reactant | 7-chloro-1-ethyl-5-fluoro-1,3-dihydro-2,1-benzisothiazol4-amine 2,2-dioxide | 1.88 mmol, 0.5 g | ClC=1C=C(C(=C2CS(N(C21)CC)(=O)=O)N)F | C9H10ClFN2O2S
reactant | triethylamine | 0.6 mL | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.238 g, 1.1 eq | C(=S)(Cl)Cl | CCl2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 2 mL | O1CCCC1 | C4H8O
product | 7-Chloro-1-ethyl-5-fluoro-1,3-dihydro-4-isothiocyanato-2,1-benzisothiazole 2,2-dioxide | ClC1=CC(=C(C=2CS(N(C21)CC)(=O)=O)N=C=S)F | C10H8ClFN2O2S2
